US04199596
6.9 g (0.03 mol) of sodium 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate were dissolved in 150 ml of dimethylformamide and heated, with 8.0 g (0.027 mol) of 3-(3-fluorophenoxy)-6-fluorobenzyl bromide, for 4 hours at 120° C. After completion of the reaction, the dimethylformamide was distilled off in vacuo and the residue was taken up in 200 ml of methylene chloride. This solution was then extracted by shaking twice with 150 ml of water, the organic phase was dried over sodium sulphate and the solvent was stripped off in vacuo. The last remnants of solvent were removed by brief incipient distillation at 70° C. (bath temperature)/1 mm Hg. 8.0 g (71% of theory) of 3-(3-fluorophenoxy)-6-fluorobenzyl 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate were obtained as a yellow oil having a refractive index nD24 of 1.5395.

reactant | sodium 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate | 0.03 mol, 6.9 g | CC1(C(C1C=C(Cl)Cl)C(=O)[O-])C.[Na+]
reactant | 3-(3-fluorophenoxy)-6-fluorobenzyl bromide | 0.027 mol, 8.0 g | FC=1C=C(OC=2C=C(CBr)C(=CC2)F)C=CC1 | C13H9BrF2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(3-fluorophenoxy)-6-fluorobenzyl 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate | 8.0 g, 71% | CC1(C(C1C=C(Cl)Cl)C(=O)OCC1=CC(=CC=C1F)OC1=CC(=CC=C1)F)C | C21H18Cl2F2O3
